US06531491B1
(3-Amino-phenyl)-(3-styryl-1H-indazol-6yl)-methanone
(3-Nitro-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanone was converted to (3-amino-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanone as described in Example 11, step (iv) (102 mg, 84%). LCMS (ESI) [M+H]/z Calc'd 340, found 340.

reactant | (3-Nitro-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanone | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C28H29N3O4Si
reactant | (3-amino-phenyl)-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanone | NC=1C=C(C=CC1)C(=O)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C28H31N3O2Si
product | (3-Amino-phenyl)-(3-styryl-1H-indazol-6yl)-methanone | NC=1C=C(C=CC1)C(=O)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C22H17N3O
